* C:\data\src\BlinkySWR\design\ltspice\blinky-diode-curve-parametric.asc
V1 src_hi src_lo SINE(0 {Vsrc} 7MEG)
R1 load_hi src_hi 25
C1 N001 0 1n
D1 load_hi N001 DI_1N5711
R2 N003 src_lo 25
R3 0 load_hi 50
R4 N003 0 50
R5 load_hi N003 100
R6 N002 N001 39k
R7 0 N002 2.2k
R_ADC N002 ADC 10k
C_SH ADC 0 10p
C2 N002 0 1n
.model D D
.lib C:\Users\bubnivoj\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.00000001 .001 0.000999
.include spicemodels_schottky_diodes.txt
.options plotwinsize=0
.step param Vsrc 0 100 0.5
.save V(src_hi) V(src_lo) V(load_hi) V(ADC) I(D1)
.backanno
.end
